US05352677
First, 5.53 g of 3,5-di-t-butyl-4-hydroxycinnamic acid, 4.4 g of N-ethoxycarbonylmethylthioethyl-n-butylamine, and 4.0 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (WSC) were added to 100 ml of dichloromethane and the mixture was agitated for 3 hours at room temperature. Then, this reaction mixture was poured into water, and after chloroform extraction the chloroform layer was dehydrated with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue so obtained was separated and purified by column chromatography on silica gel with chloroform, after which hexane was added and crystallization yielded 7.34 g of an N-ethoxycarbonylmethylthioethyl-N-n-butylcinnamamide derivative (yield 79.5%) in the form of white crystals.

reactant | 3,5-di-t-butyl-4-hydroxycinnamic acid | 5.53 g | C(C)(C)(C)C=1C=C(C=CC(=O)O)C=C(C1O)C(C)(C)C | C17H24O3
reactant | N-ethoxycarbonylmethylthioethyl-n-butylamine | 4.4 g | C(C)OC(=O)CSCCNCCCC | C10H21NO2S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4.0 g | Cl.C(C)N=C=NCCCN(C)C
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-ethoxycarbonylmethylthioethyl-N-n-butylcinnamamide | 7.34 g, yield 79.5% | C(C)OC(=O)CSCCN(C(C=CC1=CC=CC=C1)=O)CCCC | C19H27NO3S
